US05552404
A 12 L, 3-necked round bottom flask was charged with trans-2,5-dimethylpiperazine (767 g, 6.72 mol), which had been recrystallized from toluene to mp=115°-119° C., and 600 mL of water. The flask was cooled in an ice bath and a solution of methanesulfonic acid (1290 g, 13.4 mol) in 600 mL of water was added slowly with stirring and cooling to maintain the temperature below 40° C. The solution was cooled to 20° C. and 800 mL of ethanol was added. A 500 mL addition funnel was filled with 60% aqueous potassium acetate from a 2 L reservoir of the solution, and potassium acetate was added to the reaction flask to adjust the pH to 4.0. A second addition funnel was charged with a solution of ethyl chloroformate (642 mL, 6.71 mol) in 360 mL of tetrahydrofuran. The ethyl chloroformate and potassium acetate solutions were simultaneously added dropwise with adjustment of rate to maintain the reaction solution at pH 4.0±0.1, with cooling as necessary to maintain temperature at 25° C. After addition of the ethyl chloroformate was complete, the reaction was stirred for 1 hour with continued addition of potassium acetate solution to maintain a pH of 4.0. The organic solvents were removed by distillation under vacuum. The remaining aqueous solution was washed with 1500 mL of ethyl acetate to remove any bis-carbamate impurity. The ethyl acetate wash was extracted with two 500 mL portions of 1M hydrochloric acid to recover desired product. The acid extracts were combined with the original aqueous solution and the pH was adjusted to 11 by addition of 10M sodium hydroxide, with cooling to maintain temperature below 40° C. The aqueous solution was extracted with two 1500 mL portions of ethyl acetate, the combined extracts were dried over magnesium sulfate, and the solvent was removed to give 927 g (74%) ethyl trans-2,5-dimethyl-1-piperazinecarboxylate as a yellow oil.

reactant | trans-2,5-dimethylpiperazine | 6.72 mol, 767 g | C[C@@H]1NC[C@H](NC1)C | C6H14N2
reactant | methanesulfonic acid | 13.4 mol, 1290 g | CS(=O)(=O)O | CH4O3S
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | ethyl chloroformate | 6.71 mol, 642 mL | ClC(=O)OCC | C3H5ClO2
solvent | water | 600 mL | O | H2O
solvent | tetrahydrofuran | 360 mL | O1CCCC1 | C4H8O
solvent | ethanol | 800 mL | C(C)O | C2H6O
product | ethyl trans-2,5-dimethyl-1-piperazinecarboxylate | 927 g, 74% | C[C@@H]1N(C[C@H](NC1)C)C(=O)OCC | C9H18N2O2
